US08084448B2
B. (R)-3-{3-Benzyloxy-4-[1,1,4-trioxo-5-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-2-yl]-benzyl}-3,4-dihydro-2H-isoquinolin-1-one
The title compound is prepared from (S)-3-iodomethyl-3,4-dihydro-2H-isoquinolin-1-one and 5-(2-benzyloxy-4-iodophenyl)-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one analogous to the method used in Example 57, step B.

reactant | (S)-3-iodomethyl-3,4-dihydro-2H-isoquinolin-1-one | IC[C@H]1NC(C2=CC=CC=C2C1)=O | C10H10INO
reactant | 5-(2-benzyloxy-4-iodophenyl)-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)I)N1CC(N(S1(=O)=O)CC[Si](C)(C)C)=O | C20H25IN2O4SSi
product | (R)-3-{3-Benzyloxy-4-[1,1,4-trioxo-5-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-2-yl]-benzyl}-3,4-dihydro-2H-isoquinolin-1-one | C(C1=CC=CC=C1)OC=1C=C(C[C@H]2NC(C3=CC=CC=C3C2)=O)C=CC1N1S(N(C(C1)=O)CC[Si](C)(C)C)(=O)=O | C30H35N3O5SSi
